US03993780
A mixture of 2 g of N-[4-ethoxy-4-(4-fluorophenyl)butyl]amine, 2 g of 2-(2-ethoxyphenoxy)ethyl chloride, 0.1 g of sodium iodide, 1 g of sodium bicarbonate and 20 ml of N,N-dimethylformamide was stirred at about 110° C for 20 hours. After cooling, the reaction mixture was poured into 200 ml of water and extracted with benzene. The benzene layer was washed with water, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was treated with ethanolic oxalic acid and recrystallized from ethanol to give N-[4-ethoxy-4-(4-fluorophenyl)butyl]-2-(2-ethoxyphenoxy)ethylamine oxalate, M.P. 157° - 160° C.

reactant | N-[4-ethoxy-4-(4-fluorophenyl)butyl]amine | 2 g | C(C)OC(CCCN)C1=CC=C(C=C1)F | C12H18FNO
reactant | 2-(2-ethoxyphenoxy)ethyl chloride | 2 g | C(C)OC1=C(OCCCl)C=CC=C1 | C10H13ClO2
reactant | sodium iodide | 0.1 g | [I-].[Na+]
reactant | sodium bicarbonate | 1 g | C([O-])(O)=O.[Na+]
solvent | water | 200 ml | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-[4-ethoxy-4-(4-fluorophenyl)butyl]-2-(2-ethoxyphenoxy)ethylamine oxalate | C(C(=O)O)(=O)O.C(C)OC(CCCNCCOC1=C(C=CC=C1)OCC)C1=CC=C(C=C1)F | InChI=1S/C22H30FNO3.C2H2O4/c1-3-25-20(18-11-13-19(23)14-12-18)10-7-15-24-16-17-27-22-9-6-5-8-21(22)26-4-2;3-1(4)2(5)6/h5-6,8-9,11-14,20,24H,3-4,7,10,15-17H2,1-2H3;(H,3,4)(H,5,6)
